US04678781
The starting material was prepared by reaction of 4-nitro-3-hydroxy pyridine-N-oxide with acetyl chloride under reflux for 1 hour. The crude product was purified by rapid chromatography on silica gel using CH2Cl2 /MeOH 7:3 v/v as eluant to give 4-chloro-3-hydroxypyridine-N-oxide. Reduction of this compound with Raney nickel and hydrogen at ambient temperature for 2 hours in MeOH gave 4-chloro-3-hydroxypyridine. This compound was reacted with NaH in DMSO at 50°, the reaction mixture cooled and treated with 4-nitrobenzyl bromide for 1 hour. The reaction mixture was worked up with water and ether and the product treated with HCl/ether to give 4-chloro-3-(4-nitrobenzyloxy)pyridine hydrochloride. Reaction of the free base with excess methyl iodide at ambient temperature for 24 hours gave 4-chloro-1-methyl-3-(4-nitrobenzyloxy)pyridinium iodide. n.m.r. in d6DMSO: 4.35(s, 3H); 5.6(s, 2H); 7.7(d, 2H); 8.3(d, 2H); 8.4(d, 1 H); 8.7(d, 1H); 9.15(s, 1H).

reactant | NaH | [H-].[Na+]
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | water | O | H2O
reactant | HCl ether | Cl.CCOCC
solvent | DMSO | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
product | 4-chloro-3-(4-nitrobenzyloxy)pyridine hydrochloride | Cl.ClC1=C(C=NC=C1)OCC1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C12H9ClN2O3.ClH/c13-11-5-6-14-7-12(11)18-8-9-1-3-10(4-2-9)15(16)17;/h1-7H,8H2;1H
